US06153742
In a 10 mL-syringe equipped with a polypropylene disk are introduced 1.5 g of aminomethylpolystyrene (Sigma, 0.81 mmol NH2 /g of resin), 44.6 mg (0.24 equiv.) of 1-hydroxybenzotriazole in 0.8 mL of DMF, 63.2 mg (0.24 equiv.) of DCC in 2 mL of DCM and 103 mg (0.24 equiv.) of N-Fmoc-6-aminohexanoic acid in 5 mL of DCM and 0.4 mL of DMF and left to react, with occasional stirring, for two hours. The resin is washed with DMF (3×1 min), DCM (3×1 min) and MeOH (3×1 min), dried and the functionalization is determined on an aliquot. The remaining amine groups are acetylated with acetic anhydride (100 equiv.) in DMF for 10 min, after which time DIEA (10 equiv.) is added and left to react for 10 min more, and the resin is washed again. The absence of free amine groups is confirmed by the ninhydrin test. In order to eliminate the Fmoc group, and at the same time determine the degree of substitution, the resin is treated with a solution of 50% piperidine in DMF (3×2 min) and washed with DCM (3×1 min), DMF and MeOH. The filtrates from the treatment with piperidine and DCM washes are pooled and the amount of N-(9-fluorenylmethyl)piperidine formed in the deprotection determined spectrophotometrically (lambda=300 nm, epsilon=7800). Resins with a substitution degree between 0.05 and 0.1 mmol NH2 /g resin are obtained.

reactant | polypropylene | C(C(C)[*:2])[*:1]
reactant | 1-hydroxybenzotriazole | 44.6 mg, 0.24 equiv. | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | DCC | 63.2 mg, 0.24 equiv. | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | N-Fmoc-6-aminohexanoic acid | 103 mg, 0.24 equiv. | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NCCCCCC(=O)O | C21H23NO4
reactant | acetic anhydride | 100 equiv. | C(C)(=O)OC(C)=O | C4H6O3
reactant | DIEA | 10 equiv. | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.8 mL | CN(C)C=O | C3H7NO
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.4 mL | CN(C)C=O | C3H7NO
product | N-(9-fluorenylmethyl)piperidine | C1=CC=CC=2C3=CC=CC=C3C(C12)CN1CCCCC1 | C19H21N
